US05206238
Preparation of 1-methyl-2-[(2-methylpropoxy)carbonyl]-amino-methyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine
According to the method of Example 1, 1-methyl-2-aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (250 mg, 0.88 mmole) and isobutyl chloroformate (114 μl, 0.88 mmole) were combined with 4 ml of dry methylene chloride, and 97 μl of N-methyl-morpholine (0.88 mmole) at -5° C. was added to the mixture. The resulting reaction mixture was allowed to warm to room temperature over 2 hours, and after dilution and washing, rotoevaporation of the dried extracts of the reaction afforded 230 mg of an oil which was purified by silica gel chromatography (ethyl acetate-hexane elution, 7:3 v/v) to give the analytical sample (120 mg) which was 98% pure by HPLC.

reactant | 1-methyl-2-aminomethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.88 mmole, 250 mg | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CN | C17H18FN3
reactant | isobutyl chloroformate | 0.88 mmole, 114 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-morpholine | 0.88 mmole, 97 μl | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-[(2-methylpropoxy)carbonyl]-amino-methyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 230 mg | CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)N)(C(=O)OCC(C)C)C | C22H26FN3O2
